US08236806B2
1-(4-chlorophenyl)-4-(3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 157)
118 mg (83%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propanal (75 mg, 0.310 mmol), 1-(4-chlorophenyl)piperazine (83 mg, 0.310 mmol), DIPEA (0.081 mL, 0.465 mmol) and NaBH(OAc)3 (197 mg, 0.930 mmol).

reactant | 3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propanal | 0.310 mmol, 75 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)CCC | C15H18N2O
reactant | 1-(4-chlorophenyl)piperazine | 0.310 mmol, 83 mg | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | DIPEA | 0.465 mmol, 0.081 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.930 mmol, 197 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(4-chlorophenyl)-4-(3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propyl)piperazine | ClC1=CC=C(C=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)CCC | C25H31ClN4
